### PR TITLE
[Merged by Bors] - feat(NumberTheory/LSeries): abstract functional equations

### PR DESCRIPTION
**Pull request by loefflerd**
A general framework for proving analytic continuation & functional equations via Mellin transforms.

---

(Note to reviewers: this is a generalisation of the existing argument used in the Riemann zeta function code; but I have not refactored the existing code using this just yet, since I will shortly be PR'ing more general results for Hurwitz and Dirichlet L-series, and Riemann zeta will eventually just be a special case of these.)

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/NumberTheory/LSeries/AbstractFuncEq.lean [hunk 1]
```diff
@@ -0,0 +1,450 @@
...
+`f (1 / x) = ε * x ^ k * g x`
+
+for some constants `k ∈ ℝ` and `ε ∈ ℂ`. (Modular forms give rise to natural examples
+with `k` being the weight and `ε` the global root number; hence the notation.) We could arrange
+`ε = 1` by scaling `g`; but this is inconvenient in applications so we set things up more generally.
+
+A *strong FE-pair* is a weak FE-pair where the constant terms of `f` and `g` at `∞` are both 0.
+
+The main property of these pairs is the following: if `f`, `g` are a weak FE-pair, then the Mellin
+transforms `Λ` and `Λ'` of `f - f₀` and `g - g₀` respectively both have meromorphic continuation
```
Comment (faenuccio) [inline Mathlib/NumberTheory/LSeries/AbstractFuncEq.lean:30]: Do you want to say what $f_0$ and $g_0$ are here? I agree it is clear from the code, but in this (very nice!) introduction they might also appear and I cannot find them.

File: Mathlib/NumberTheory/LSeries/AbstractFuncEq.lean [hunk 2]
```diff
@@ -0,0 +1,450 @@
...
+    rw [norm_of_nonneg (rpow_pos_of_pos hx _).le, rpow_neg hx.le]
+    exact one_le_inv (rpow_pos_of_pos hx _) (rpow_le_one hx.le hx' P.hk.le)
+
+end WeakFEPair
+
+namespace StrongFEPair
+
+variable (P : StrongFEPair E)
+
+/-- As `x → 0`, `F x` decays faster than any power of `x`. -/
```
Comment (faenuccio) [inline Mathlib/NumberTheory/LSeries/AbstractFuncEq.lean:172]:
```suggestion
/-- As `x → ∞`, `F x` decays faster than any power of `x`. -/
```

File: Mathlib/NumberTheory/LSeries/AbstractFuncEq.lean [hunk 3]
```diff
@@ -0,0 +1,450 @@
...
+
+/-- The Mellin transform of `f` is well-defined and equal to `P.Λ s`, for all `s`. -/
+lemma hasMellin (s : ℂ) :
+    HasMellin P.f s (P.Λ s):=
+  let ⟨t, ht⟩ := exists_gt s.re
+  let ⟨u, hu⟩ := exists_lt s.re
+  ⟨mellinConvergent_of_isBigO_rpow P.hf_int (P.hf_top' t) ht (P.hf_zero' u) hu, rfl⟩
+
+/-- If `(f, g)` are a strong FE pair, then the Mellin transform of `f` is entire. -/
+lemma differentiable_Λ : Differentiable ℂ P.Λ := fun s ↦
```
Comment (faenuccio) [inline Mathlib/NumberTheory/LSeries/AbstractFuncEq.lean:198]:
```suggestion
lemma Differentiable_Λ : Differentiable ℂ P.Λ := fun s ↦
```

File: Mathlib/NumberTheory/LSeries/AbstractFuncEq.lean [hunk 4]
```diff
@@ -0,0 +1,450 @@
...
+  let ⟨_, ht⟩ := exists_gt s.re
+  let ⟨_, hu⟩ := exists_lt s.re
+  mellin_differentiableAt_of_isBigO_rpow P.hf_int (P.hf_top' _) ht (P.hf_zero' _) hu
+
+/-- Main theorem about strong FE pairs: if `(f, g)` are a strong FE pair, then the Mellin
+transforms of `f` and `g` are related by `s ↦ k - s`. -/
+lemma functional_equation (s : ℂ) :
```
Comment (faenuccio) [inline Mathlib/NumberTheory/LSeries/AbstractFuncEq.lean:205]: Can you add some intermediate comments that explain the structure of the proof?

File: Mathlib/NumberTheory/LSeries/AbstractFuncEq.lean [hunk 5]
```diff
@@ -0,0 +1,450 @@
...
+
+variable (P : WeakFEPair E)
+
+/-!
+## Auxiliary results II: building a strong FE-pair from a weak FE-pair
+-/
+
+/-- Piecewise modified version of `f` with optimal asymptotics. We deliberately choose intervals
+which don't quite join up, so the function is `0` at `x = 1`, in order to maintain symmetry;
+there is no `good` choice of value at `1`. -/
```
Comment (faenuccio) [inline Mathlib/NumberTheory/LSeries/AbstractFuncEq.lean:236]: Then why not defined a parametrised version (say, `f_mod'`) where `1` is a variable, in case we later need to split this at another point? You can then use an `abbreviation` to set this to `1` in the rest of your file. Probably I would also stick to the whole "modified" or "modif" to avoid confusion with "mod" for modular/modulo.

File: Mathlib/NumberTheory/LSeries/AbstractFuncEq.lean [hunk 6]
```diff
@@ -0,0 +1,450 @@
...
+    all_goals { simp }
+  · have : 1 < 1 / x := by rwa [lt_one_div one_pos hx, div_one]
+    rw [f_mod, Pi.add_apply, indicator_of_mem (mem_Ioi.mpr this),
+      indicator_of_not_mem (not_mem_Ioo_of_ge this.le), add_zero, g_mod, Pi.add_apply,
+      indicator_of_not_mem (not_mem_Ioi.mpr hx'.le),
+      indicator_of_mem (mem_Ioo.mpr ⟨hx, hx'⟩), zero_add, P.h_feq _ hx, smul_sub]
+    simp_rw [rpow_neg hx.le, ← mul_smul]
+    field_simp [(rpow_pos_of_pos hx P.k).ne', P.hε]
+
+/-- A strong FE-pair derived from `(f, g)` by subtracting a suitable correction term. -/
```
Comment (faenuccio) [inline Mathlib/NumberTheory/LSeries/AbstractFuncEq.lean:286]:
```suggestion
/-- A modified strong FE-pair derived from a string FE-pair `(f, g)` by subtracting a suitable correction term. -/
```

File: Mathlib/NumberTheory/LSeries/AbstractFuncEq.lean [hunk 7]
```diff
@@ -0,0 +1,450 @@
...
+def Λ₀ : ℂ → E := mellin P.f_mod
+
+/-- A meromorphic function which agrees with the Mellin transform of `f - f₀` where defined -/
+def Λ (s : ℂ) : E := P.Λ₀ s - (1 / s) • P.f₀ - (P.ε / (P.k - s)) • P.g₀
+
+lemma Λ₀_eq (s : ℂ) : P.Λ₀ s = P.Λ s + (1 / s) • P.f₀ + (P.ε / (P.k - s)) • P.g₀ := by
+  unfold Λ Λ₀
+  abel
+
+lemma differentiable_Λ₀ : Differentiable ℂ P.Λ₀ := P.modStrongFEPair.differentiable_Λ
```
Comment (faenuccio) [inline Mathlib/NumberTheory/LSeries/AbstractFuncEq.lean:380]: Here and below, I would write "Differentiable" to fit Mathlib's convention.

File: Mathlib/NumberTheory/LSeries/AbstractFuncEq.lean (hunk 3 above)
Comment (loefflerd) [reply Mathlib/NumberTheory/LSeries/AbstractFuncEq.lean:198]: I don't think that's the convention, is it? `Differentiable` is `Type`-valued, but `differentiable_Λ` is term-valued (it constructs a term of type `Differentiable xxx`) so it is lowercased.

Comment (faenuccio) [reply Mathlib/NumberTheory/LSeries/AbstractFuncEq.lean:198]: Yep, good point. Sorry for the noise.

File: Mathlib/NumberTheory/LSeries/AbstractFuncEq.lean (hunk 5 above)
Comment (loefflerd) [reply Mathlib/NumberTheory/LSeries/AbstractFuncEq.lean:236]: There's two separate issues here – choosing where to split the integral, and choosing what value to assign for `f_mod` at the split point. The comment is about the latter, but I think you are perhaps misreading it as the former (which is a much more mathematically interesting issue!).


For the former: I did consider adding an extra parameter `N` in the `FEPair` class, allowing a functional equation relating `t` and `N / t`, and splitting the integral at `sqrt N`; but it all became quite messy. I think it'll be easier just to scale the variables when applying this to higher-level modular forms.

I think the latter (boring) issue, assigning the value at the endpoint, is not likely to be of interest outside the context of this particular proof.

File: Mathlib/NumberTheory/LSeries/AbstractFuncEq.lean (hunk 6 above)
Comment (loefflerd) [reply Mathlib/NumberTheory/LSeries/AbstractFuncEq.lean:286]: String theory? :smile:

Comment (faenuccio) [reply Mathlib/NumberTheory/LSeries/AbstractFuncEq.lean:286]: Sorry, typing with iPad ...

File: Mathlib/NumberTheory/LSeries/AbstractFuncEq.lean (hunk 5 above)
Comment (loefflerd) [reply Mathlib/NumberTheory/LSeries/AbstractFuncEq.lean:242]: If we allow a general "level" parameter `0 < N`, and let the functional equation hypothesis be `f (N / t) = (stuff) * g x`, then what should the "stuff" be? If we have
````
f (N / x) = ε * x ^ k * g x
````
then we lose the symmetry (`P.symm.ε = P.ε⁻¹`) which holds with the current setup. If we make it
````
f (N / x) = ε * (x / sqrt(N)) ^ k * g x
````
then the symmetry is restored, but the proofs of the intermediate results become yet more complicated.

Comment (loefflerd) [reply Mathlib/NumberTheory/LSeries/AbstractFuncEq.lean:242]: How about the following? If we find in future that the corresponding results for non-trivial "level" parameters are useful, we can add (in a future PR) classes `WeakFEPairWithLevel` and `StrongFEPairWithLevel`. Then we can prove some simple lemma to the effect that if `f, g` are a `WeakFEPairWithLevel` N, then `f (· / sqrt N), g (· / sqrt N)` are a `WeakFEPair` of level 1, and level N generalisations of all the results on FE-pairs will follow easily.

Comment (faenuccio) [reply Mathlib/NumberTheory/LSeries/AbstractFuncEq.lean:242]: Sure, that makes sense. I was suggesting a very low-level modifications, namely simply adding the `modif_withLevel` modified version and immediately after setting an abbreviation for `mod_f` (or modif_f) being the `modif_withLevel 1`. But I agree that without adding any further lemma this is not so useful, so your remark is perfectly fine: you could add a `ToDo` line at the beginning with the above remark.

**Comment by faenuccio** [comment]
LGTM!

File: Mathlib/NumberTheory/LSeries/AbstractFuncEq.lean (hunk 5 above)
Comment (loefflerd) [reply Mathlib/NumberTheory/LSeries/AbstractFuncEq.lean:249]: I've added a TODO comment.

Comment (faenuccio) [reply Mathlib/NumberTheory/LSeries/AbstractFuncEq.lean:249]: Great, IMHO this PR is ready to go.

**Review by riccardobrasca — COMMENTED** [review]
This looks like a great work, thanks! I will try to have a closer look later.

File: Mathlib/NumberTheory/LSeries/AbstractFuncEq.lean [hunk 8]
```diff
@@ -0,0 +1,464 @@
...
+
+/-!
+# Abstract functional equations for Mellin transforms
+
+This file formalises a general version of an argument used to prove functional equations for
+zeta and L functions.
+
+### FE-pairs
+
+We define a *weak FE-pair* to be a pair of functions `f, g` on the positive reals which are
```
[the remark this answers is not in the document]
Comment (loefflerd) [reply Mathlib/NumberTheory/LSeries/AbstractFuncEq.lean:17]: Of course, what I really mean is that only their values on the positive reals will matter. Happy to rephrase it

**Comment by faenuccio** [comment]
> This looks like a great work, thanks! I will try to have a closer look later.

I agree!

File: Mathlib/NumberTheory/LSeries/AbstractFuncEq.lean [hunk 9]
```diff
@@ -0,0 +1,464 @@
...
+  mellin_differentiableAt_of_isBigO_rpow P.hf_int (P.hf_top' _) ht (P.hf_zero' _) hu
+
+/-- Main theorem about strong FE pairs: if `(f, g)` are a strong FE pair, then the Mellin
+transforms of `f` and `g` are related by `s ↦ k - s`.
+
+This is proved by making a substitution `t ↦ t⁻¹` in the Mellin transform integral. -/
+lemma functional_equation (s : ℂ) :
+    P.Λ (P.k - s) = P.ε • P.symm.Λ s := by
+  -- unfold definition:
+  change mellin P.f (P.k - s) = P.ε • mellin P.g s
```
[the remark this answers is not in the document]
Comment (loefflerd) [reply Mathlib/NumberTheory/LSeries/AbstractFuncEq.lean]: I've added a couple of `rfl` lemmas and used them to get rid of the `change` calls.

File: Mathlib/NumberTheory/LSeries/AbstractFuncEq.lean [hunk 10]
```diff
@@ -0,0 +1,471 @@
...
+The main property of these pairs is the following: if `f`, `g` are a weak FE-pair, with constant
+terms `f₀` and `g₀` at `∞`, then the Mellin transforms `Λ` and `Λ'` of `f - f₀` and `g - g₀`
+respectively both have meromorphic continuation and satisfy a functional equation of the form
+
+`Λ (k - s) = ε * Λ' s`.
+
+The poles (and their residues) are explicitly given in terms of `f₀` and `g₀`; in particular, if
+`(f, g)` are a strong FE-pair, then the Mellin transforms of `f` and `g` are entire functions.
+
+### Main results
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/LSeries/AbstractFuncEq.lean:38]:
```suggestion
### Main definitions and results
```

File: Mathlib/NumberTheory/LSeries/AbstractFuncEq.lean [hunk 11]
```diff
@@ -0,0 +1,471 @@
...
+
+end symmetry
+
+namespace WeakFEPair
+
+/-!
+## Auxiliary results I: lemmas on asymptotics
+-/
+
+/-- As `x → 0`, we have `F x = x ^ (-P.k) • constant` up to a rapidly decaying error. -/
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/LSeries/AbstractFuncEq.lean:135]: Can you explain what `F` is in the docstring?

File: Mathlib/NumberTheory/LSeries/AbstractFuncEq.lean [hunk 12]
```diff
@@ -0,0 +1,471 @@
...
+  (ε : ℂ)
+  /-- Constant terms at `∞` -/
+  (f₀ g₀ : E)
+  (hf_int : LocallyIntegrableOn f (Ioi 0))
+  (hg_int : LocallyIntegrableOn g (Ioi 0))
+  (hk : 0 < k)
+  (hε : ε ≠ 0)
+  (h_feq : ∀ x ∈ Ioi 0, f (1 / x) = (ε * ↑(x ^ k)) • g x)
+  (hf_top (r : ℝ) : (f · - f₀) =O[atTop] (· ^ (-r)))
+  (hg_top (r : ℝ) : (g · - g₀) =O[atTop] (· ^ (-r)))
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/LSeries/AbstractFuncEq.lean:93]: Would it simplify things later (if only slightly) if one uses `r` in place of `-r`?

File: Mathlib/NumberTheory/LSeries/AbstractFuncEq.lean [hunk 13]
```diff
@@ -0,0 +1,471 @@
...
+    rw [norm_of_nonneg (rpow_pos_of_pos hx _).le, rpow_neg hx.le]
+    exact one_le_inv (rpow_pos_of_pos hx _) (rpow_le_one hx.le hx' P.hk.le)
+
+end WeakFEPair
+
+namespace StrongFEPair
+
+variable (P : StrongFEPair E)
+
+/-- As `x → ∞`, `F x` decays faster than any power of `x`. -/
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/LSeries/AbstractFuncEq.lean:178]:
```suggestion
/-- As `x → ∞`, `f x` decays faster than any power of `x`. -/
```
At least, this is what the statement says...

File: Mathlib/NumberTheory/LSeries/AbstractFuncEq.lean [hunk 14]
```diff
@@ -0,0 +1,471 @@
...
+lemma hf_top' (r : ℝ) : P.f =O[atTop] (· ^ (-r)) := by
+  simpa only [P.hf₀, sub_zero] using P.hf_top r
+
+/-- As `x → 0`, `F x` decays faster than any power of `x`. -/
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/LSeries/AbstractFuncEq.lean:182]:
```suggestion
/-- As `x → 0`, `f x` decays faster than any power of `x`. -/
```

File: Mathlib/NumberTheory/LSeries/AbstractFuncEq.lean [hunk 15]
```diff
@@ -0,0 +1,471 @@
...
+/-!
+## Main theorems on strong FE-pairs
+-/
+
+/-- The completed L-function. -/
+def Λ : ℂ → E := mellin P.f
+
+/-- The Mellin transform of `f` is well-defined and equal to `P.Λ s`, for all `s`. -/
+lemma hasMellin (s : ℂ) :
+    HasMellin P.f s (P.Λ s):=
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/LSeries/AbstractFuncEq.lean:196]:
```suggestion
lemma hasMellin (s : ℂ) : HasMellin P.f s (P.Λ s) :=
```

File: Mathlib/NumberTheory/LSeries/AbstractFuncEq.lean [hunk 16]
```diff
@@ -0,0 +1,471 @@
...
+  let ⟨t, ht⟩ := exists_gt s.re
+  let ⟨u, hu⟩ := exists_lt s.re
+  ⟨mellinConvergent_of_isBigO_rpow P.hf_int (P.hf_top' t) ht (P.hf_zero' u) hu, rfl⟩
+
+lemma Λ_eq : P.Λ = mellin P.f := by rfl
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/LSeries/AbstractFuncEq.lean:201]:
```suggestion
lemma Λ_eq : P.Λ = mellin P.f := rfl
```
(very slightly more efficient)

File: Mathlib/NumberTheory/LSeries/AbstractFuncEq.lean [hunk 17]
```diff
@@ -0,0 +1,471 @@
...
+
+lemma symm_Λ_eq : P.symm.Λ = mellin P.g := by rfl
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/LSeries/AbstractFuncEq.lean:203]:
```suggestion
lemma symm_Λ_eq : P.symm.Λ = mellin P.g := rfl
```

File: Mathlib/NumberTheory/LSeries/AbstractFuncEq.lean [hunk 18]
```diff
@@ -0,0 +1,471 @@
...
+  -- unfold definition:
+  rw [P.Λ_eq, P.symm_Λ_eq]
+  -- substitute `t ↦ t⁻¹` in `mellin P.g s`
+  have step1 := mellin_comp_rpow P.g (-s) (-1)
+  simp_rw [abs_neg, abs_one, inv_one, one_smul, ofReal_neg, ofReal_one, div_neg, div_one, neg_neg,
+    rpow_neg_one, ← one_div] at step1
+  -- introduce a power of `t` to match the hypothesis `P.h_feq`
+  have step2 := mellin_cpow_smul (fun t ↦ P.g (1 / t)) (P.k - s) (-P.k)
+  rw [← sub_eq_add_neg, sub_right_comm, sub_self, zero_sub] at step2
+  simp_rw [step1] at step2
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/LSeries/AbstractFuncEq.lean:226]:
```suggestion
  rw [step1] at step2
```

Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/LSeries/AbstractFuncEq.lean:226]:
```suggestion
  rw [← sub_eq_add_neg, sub_right_comm, sub_self, zero_sub, step1] at step2
```

File: Mathlib/NumberTheory/LSeries/AbstractFuncEq.lean [hunk 19]
```diff
@@ -0,0 +1,471 @@
...
+
+variable (P : WeakFEPair E)
+
+/-!
+## Auxiliary results II: building a strong FE-pair from a weak FE-pair
+-/
+
+/-- Piecewise modified version of `f` with optimal asymptotics. We deliberately choose intervals
+which don't quite join up, so the function is `0` at `x = 1`, in order to maintain symmetry;
+there is no `good` choice of value at `1`. -/
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/LSeries/AbstractFuncEq.lean:252]:
```suggestion
there is no "good" choice of value at `1`. -/
```

File: Mathlib/NumberTheory/LSeries/AbstractFuncEq.lean [hunk 20]
```diff
@@ -0,0 +1,471 @@
...
+  (Ioi 1).indicator (fun x ↦ P.g x - P.g₀) +
+  (Ioo 0 1).indicator (fun x ↦ P.g x - (P.ε⁻¹ * ↑(x ^ (-P.k))) • P.f₀)
+
+lemma hf_modif_int :
+    LocallyIntegrableOn P.f_modif (Ioi 0) := by
+  have : LocallyIntegrableOn (fun x : ℝ ↦ (P.ε * ↑(x ^ (-P.k))) • P.g₀) (Ioi 0) := by
+    refine ContinuousOn.locallyIntegrableOn ?_ measurableSet_Ioi
+    refine ContinuousAt.continuousOn (fun x (hx : 0 < x) ↦ ?_)
+    refine (continuousAt_const.mul ?_).smul continuousAt_const
+    exact continuous_ofReal.continuousAt.comp (continuousAt_rpow_const _ _ (Or.inl hx.ne'))
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/LSeries/AbstractFuncEq.lean:268]: This looks like something `fun_prop` should be able to solve automatically at some point. Unfortunately, right now, it does not yet work...

File: Mathlib/NumberTheory/LSeries/AbstractFuncEq.lean [hunk 21]
```diff
@@ -0,0 +1,471 @@
...
+  · have : 1 / x < 1 := by rwa [one_div_lt hx one_pos, div_one]
+    rw [f_modif, Pi.add_apply, indicator_of_not_mem (not_mem_Ioi.mpr this.le),
+      zero_add, indicator_of_mem (mem_Ioo.mpr ⟨div_pos one_pos hx, this⟩), g_modif, Pi.add_apply,
+      indicator_of_mem (mem_Ioi.mpr hx'), indicator_of_not_mem
+      (not_mem_Ioo_of_ge hx'.le), add_zero, P.h_feq _ hx, smul_sub]
+    simp_rw [rpow_neg (one_div_pos.mpr hx).le, one_div, inv_rpow hx.le, inv_inv]
+  · rw [div_one, f_modif, Pi.add_apply, indicator_of_not_mem, indicator_of_not_mem,
+      g_modif, Pi.add_apply, indicator_of_not_mem, indicator_of_not_mem]
+    simp only [add_zero, smul_zero]
+    all_goals { simp }
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/LSeries/AbstractFuncEq.lean:293]:
```suggestion
  · simp [f_modif, g_modif]
```
(a bit slower, though).

File: Mathlib/NumberTheory/LSeries/AbstractFuncEq.lean [hunk 22]
```diff
@@ -0,0 +1,471 @@
...
+    rw [f_modif, Pi.add_apply, indicator_of_mem (mem_Ioi.mpr this),
+      indicator_of_not_mem (not_mem_Ioo_of_ge this.le), add_zero, g_modif, Pi.add_apply,
+      indicator_of_not_mem (not_mem_Ioi.mpr hx'.le),
+      indicator_of_mem (mem_Ioo.mpr ⟨hx, hx'⟩), zero_add, P.h_feq _ hx, smul_sub]
+    simp_rw [rpow_neg hx.le, ← mul_smul]
+    field_simp [(rpow_pos_of_pos hx P.k).ne', P.hε]
+
+/-- Given a weak FE-pair `(f, g)`, modify it into a strong FE-pair by subtracting suitable
+correction terms from `f` and `g`. -/
+def modifStrongFEPair : StrongFEPair E where
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/LSeries/AbstractFuncEq.lean:304]: Why not call it simply `strongFEPair`? The name looks like the strong FE-pair is somehow modified, but what the function does is to associate a strong pair to a weak one (and I assume there is only one reasonable way of doing that).

File: Mathlib/NumberTheory/LSeries/AbstractFuncEq.lean [hunk 23]
```diff
@@ -0,0 +1,471 @@
...
+  intro x (hx : 0 < x)
+  simp_rw [f_modif, Pi.add_apply]
+  rcases lt_trichotomy x 1 with hx' | rfl | hx'
+  · simp_rw [indicator_of_not_mem (not_mem_Ioi.mpr hx'.le), zero_add,
+      indicator_of_mem (mem_Ioo.mpr ⟨hx, hx'⟩)]
+    rw [indicator_of_not_mem (mem_singleton_iff.not.mpr hx'.ne), add_zero]
+    abel
+  · simp_rw [indicator_of_not_mem (not_mem_Ioi.mpr le_rfl), zero_add,
+      indicator_of_not_mem (not_mem_Ioo_of_ge le_rfl), zero_sub, zero_add]
+    rw [indicator_of_mem (mem_singleton _)]
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/LSeries/AbstractFuncEq.lean:337]:
```suggestion
  · simp [add_comm, sub_eq_add_neg]
```
would do it (or `simp; abel`, but this would run afoul of the non-terminal `simp` linter, I guess...).
Not sure it's really better, though.

File: Mathlib/NumberTheory/LSeries/AbstractFuncEq.lean [hunk 24]
```diff
@@ -0,0 +1,471 @@
...
+lemma symm_Λ₀_eq (s : ℂ) :
+    P.symm.Λ₀ s = P.symm.Λ s + (1 / s) • P.g₀ + (P.ε⁻¹ / (P.k - s)) • P.f₀ := by
+  rw [P.symm.Λ₀_eq]
+  rfl
+
+lemma differentiable_Λ₀ : Differentiable ℂ P.Λ₀ := P.modifStrongFEPair.differentiable_Λ
+
+lemma differentiableAt_Λ {s : ℂ} (hs : s ≠ 0 ∨ P.f₀ = 0) (hs' : s ≠ P.k ∨ P.g₀ = 0) :
+    DifferentiableAt ℂ P.Λ s := by
+  refine ((P.differentiable_Λ₀ s).sub  ?_).sub ?_
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/LSeries/AbstractFuncEq.lean:406]:
```suggestion
  refine ((P.differentiable_Λ₀ s).sub ?_).sub ?_
```

**Review by MichaelStollBayreuth — APPROVED** [review]
LGTM!

File: Mathlib/NumberTheory/LSeries/AbstractFuncEq.lean [hunk 25]
```diff
@@ -0,0 +1,464 @@
...
+    + ({1} : Set ℝ).indicator (fun _ ↦ P.f₀ - P.f 1)) (Ioi 0) := by
+  intro x (hx : 0 < x)
+  simp_rw [f_modif, Pi.add_apply]
+  rcases lt_trichotomy x 1 with hx' | rfl | hx'
+  · simp_rw [indicator_of_not_mem (not_mem_Ioi.mpr hx'.le), zero_add,
+      indicator_of_mem (mem_Ioo.mpr ⟨hx, hx'⟩)]
+    rw [indicator_of_not_mem (mem_singleton_iff.not.mpr hx'.ne), add_zero]
+    abel
+  · simp [add_comm, sub_eq_add_neg]
+    abel
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/LSeries/AbstractFuncEq.lean:331]: `abel` is not necessary when giving `add_comm` and `sub_eq_add_neg` to `simp`.

File: Mathlib/NumberTheory/LSeries/AbstractFuncEq.lean [hunk 26]
```diff
@@ -0,0 +1,464 @@
...
+namespace WeakFEPair
+
+/-!
+## Auxiliary results I: lemmas on asymptotics
+-/
+
+/-- As `x → 0`, we have `F x = x ^ (-P.k) • constant` up to a rapidly decaying error. -/
+lemma hf_zero (P : WeakFEPair E) (r : ℝ) :
+    (fun x ↦ P.f x - (P.ε * ↑(x ^ (-P.k))) • P.g₀) =O[𝓝[>] 0] (· ^ (-r)) := by
+  have := (P.hg_top (-(r - P.k))).comp_tendsto tendsto_inv_zero_atTop
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/LSeries/AbstractFuncEq.lean:138]:
```suggestion
    (fun x ↦ P.f x - (P.ε * ↑(x ^ (-P.k))) • P.g₀) =O[𝓝[>] 0] (· ^ r) := by
  have := (P.hg_top (-(r + P.k))).comp_tendsto tendsto_inv_zero_atTop
```
plus some corrections in the proof, which I hope the suggestions below will do.

File: Mathlib/NumberTheory/LSeries/AbstractFuncEq.lean [hunk 27]
```diff
@@ -0,0 +1,464 @@
...
+  simp_rw [IsBigO, IsBigOWith, eventually_nhdsWithin_iff] at this ⊢
+  obtain ⟨C, hC⟩ := this
+  use ‖P.ε‖ * C
+  filter_upwards [hC] with x hC' (hx : 0 < x)
+  have h_nv2 : ↑(x ^ P.k) ≠ (0 : ℂ) := ofReal_ne_zero.mpr (rpow_pos_of_pos hx _).ne'
+  have h_nv : P.ε⁻¹ * ↑(x ^ P.k) ≠ 0 := mul_ne_zero P.symm.hε h_nv2
+  specialize hC' hx
+  simp_rw [Function.comp_apply, ← one_div, neg_neg, P.h_feq' _ hx] at hC'
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/LSeries/AbstractFuncEq.lean:146]:
```suggestion
  simp_rw [Function.comp_apply, ← one_div, P.h_feq' _ hx] at hC'
```

File: Mathlib/NumberTheory/LSeries/AbstractFuncEq.lean [hunk 28]
```diff
@@ -0,0 +1,464 @@
...
+  rw [← ((mul_inv_cancel h_nv).symm ▸ one_smul ℂ P.g₀ :), mul_smul _ _ P.g₀, ← smul_sub, norm_smul,
+    ← le_div_iff' (lt_of_le_of_ne (norm_nonneg _) (norm_ne_zero_iff.mpr h_nv).symm)] at hC'
+  convert hC' using 1
+  · congr 3
+    rw [rpow_neg hx.le]
+    field_simp
+  · simp_rw [norm_mul, norm_real, rpow_neg hx.le, one_div, inv_rpow hx.le, norm_inv,
+      norm_of_nonneg (rpow_pos_of_pos hx _).le, rpow_sub hx]
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/LSeries/AbstractFuncEq.lean:154]:
```suggestion
  · simp_rw [norm_mul, norm_real, one_div, inv_rpow hx.le, norm_inv,
      norm_of_nonneg (rpow_pos_of_pos hx _).le, rpow_neg hx.le, rpow_add hx]
```

File: Mathlib/NumberTheory/LSeries/AbstractFuncEq.lean [hunk 29]
```diff
@@ -0,0 +1,464 @@
...
+    exact one_le_inv (rpow_pos_of_pos hx _) (rpow_le_one hx.le hx' P.hk.le)
+
+end WeakFEPair
+
+namespace StrongFEPair
+
+variable (P : StrongFEPair E)
+
+/-- As `x → ∞`, `f x` decays faster than any power of `x`. -/
+lemma hf_top' (r : ℝ) : P.f =O[atTop] (· ^ (-r)) := by
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/LSeries/AbstractFuncEq.lean:179]:
```suggestion
lemma hf_top' (r : ℝ) : P.f =O[atTop] (· ^ r) := by
```

File: Mathlib/NumberTheory/LSeries/AbstractFuncEq.lean [hunk 30]
```diff
@@ -0,0 +1,464 @@
...
+  simpa only [P.hf₀, sub_zero] using P.hf_top r
+
+/-- As `x → 0`, `f x` decays faster than any power of `x`. -/
+lemma hf_zero' (r : ℝ) : P.f =O[𝓝[>] 0] (· ^ (-r)) := by
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/LSeries/AbstractFuncEq.lean:183]:
```suggestion
lemma hf_zero' (r : ℝ) : P.f =O[𝓝[>] 0] (· ^ r) := by
```

File: Mathlib/NumberTheory/LSeries/AbstractFuncEq.lean [hunk 31]
```diff
@@ -0,0 +1,464 @@
...
+-/
+
+/-- The completed L-function. -/
+def Λ : ℂ → E := mellin P.f
+
+/-- The Mellin transform of `f` is well-defined and equal to `P.Λ s`, for all `s`. -/
+lemma hasMellin (s : ℂ) : HasMellin P.f s (P.Λ s) :=
+  let ⟨t, ht⟩ := exists_gt s.re
+  let ⟨u, hu⟩ := exists_lt s.re
+  ⟨mellinConvergent_of_isBigO_rpow P.hf_int (P.hf_top' t) ht (P.hf_zero' u) hu, rfl⟩
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/LSeries/AbstractFuncEq.lean:198]:
```suggestion
  ⟨mellinConvergent_of_isBigO_rpow P.hf_int (P.hf_top' (-t)) ht (P.hf_zero' (-u)) hu, rfl⟩
```

File: Mathlib/NumberTheory/LSeries/AbstractFuncEq.lean (hunk 22 above)
Comment (loefflerd) [reply Mathlib/NumberTheory/LSeries/AbstractFuncEq.lean:299]: I wanted to make it clear in the name that the resulting strong FE pair does *not* have the same underlying functions as the weak FE pair does – it's different underlying data, not the same data repackaged. There is definitely a lot of choice in how one constructs a strong FE pair from a weak one: strong FE-pairs are a codimension 2 subspace in the space of weak FE-pairs, and we are choosing a specific complementary subspace.

Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/LSeries/AbstractFuncEq.lean:299]: OK; I can see that one could, e.g., choose more general splitting points `t` and `1/t` instead of `1` and `1` in the definition of the modified functions. Still, I don't quite like the name and would prefer that `modif` is removed. I think the "making clear that" is better done in the docstring.

Comment (loefflerd) [reply Mathlib/NumberTheory/LSeries/AbstractFuncEq.lean:299]: Do you have an alternative suggestion for a naming scheme? If `WeakFEPair.modifStrongFEPair` becoms `WeakFEPair.strongFEPair`, then what should the lemmas needed in building this object, e.g. `WeakFEPair.hf_modif_int`, be called?

Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/LSeries/AbstractFuncEq.lean:299]: I think it's OK to leave the other names as they are, as they indeed talk about modified versions of the data. I would consider them implementation details of the projection to strong pairs, which is the main goal here. The difference is what `modif` appears to refer to.

Maybe `WeakFEPair.toStrongFEPair` captures a bit better what this is intended to do?

File: Mathlib/NumberTheory/LSeries/AbstractFuncEq.lean [hunk 32]
```diff
@@ -0,0 +1,463 @@
...
+      rw [← integrableOn_def, ← intervalIntegrable_iff_integrableOn_Ioc_of_le zero_le_one]
+      exact intervalIntegral.intervalIntegrable_cpow' h_re2
+  _ = _ := by simp_rw [← intervalIntegral.integral_of_le zero_le_one,
+      integral_cpow (Or.inl h_re1), integral_cpow (Or.inl h_re2), ofReal_zero, ofReal_one,
+      one_cpow, sub_add_cancel, zero_cpow fun h ↦ lt_irrefl _ (P.hk.le.trans_lt (zero_re ▸ h ▸ hs)),
+      zero_cpow (sub_ne_zero.mpr (fun h ↦ lt_irrefl _ ((ofReal_re _) ▸ h ▸ hs)) : s - P.k ≠ 0),
+      sub_zero, sub_eq_add_neg (_ •  _), ← mul_smul, ← neg_smul, mul_one_div, ← div_neg, neg_sub]
+
+/-!
+## Main theorems on weak FE-pairs
```
Comment (faenuccio) [inline Mathlib/NumberTheory/LSeries/AbstractFuncEq.lean:375]: Since, AFAIK, mathlib has not yet decided about `lemma` vs `theorem` you can perhaps rename the main ones to `theorem` to help the reader understand the one you are referring to.

**Comment by faenuccio** [comment]
I think there is not much more to do with this PR and it seems ready to go.

File: Mathlib/NumberTheory/LSeries/AbstractFuncEq.lean (hunk 22 above)
Comment (loefflerd) [reply Mathlib/NumberTheory/LSeries/AbstractFuncEq.lean]: I have changed it to `WeakFEPair.toStrongFEPair`, while leaving the preliminary lemmas unchanged, as suggested.

File: Mathlib/NumberTheory/LSeries/AbstractFuncEq.lean (hunk 32 above)
Comment (loefflerd) [reply Mathlib/NumberTheory/LSeries/AbstractFuncEq.lean:375]: I have rebadged as `theorems` all the results that are specifically called out in the file-level header.

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
